US07332485B2
2-(4,4-Dimethyl-Cyclohexylidene)-[1,3]Dithiane
To a solution of 2-trimethylsily-1,3-dithiane (42.3 g, 0.22 mol) in THF (400 mL) at 0° C. under an argon atmosphere was added a solution of n-butyl lithium (2.5 M in hexanes, 88 mL, 0.22 mol) and the mixture was cooled to −78° C. A solution of 4,4-dimethyl cyclohexanone (13.9 g, 0.11 mol) in THF (50 mL) was added over 10 min. After 2 h the reaction mixture was quenched with saturated aqueous NH4Cl solution (200 mL). The aqueous phase was extracted with EtOAc (200 mL×2) and the combined organic layers were dried (MgSO4) and were evaporated. The reaction by-products were removed by vacuum distillation to yield the desired product as a white wax (21 g, 85%). MH+229

reactant | 2-trimethylsily-1,3-dithiane | 0.22 mol, 42.3 g | C[Si](C1SCCCS1)(C)C | C7H16S2Si
reactant | n-butyl lithium | 0.22 mol, 2.5 M, 88 mL | C(CCC)[Li]
reactant | 4,4-dimethyl cyclohexanone | 0.11 mol, 13.9 g | CC1(CCC(CC1)=O)C | C8H14O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(4,4-Dimethyl-Cyclohexylidene)-[1,3]Dithiane | CC1(CCC(CC1)=C1SCCCS1)C | C12H20S2
